US07399775B2
[6-(2,5-Difluorophenylcarbonyl)pyridin-3-yl]methyl Acetate
While heating under reflux, N-bromosuccinimide (6.0 g, 33.6 mmol) and a catalytic amount of 2,2′-azobis(2-methylpropionitrile) were added to a solution of the 2-[(2,5-difluorophenyl)-hydroxymethyl]-5-methylpyridine (2.64 g, 11.2 mmol), which had been obtained in Referential Example 15, in carbon tetrachloride (60 ml). The resulting mixture was then, stirred. After reflux for 7 hours, the reaction mixture was cooled to room temperature and added to an aqueous solution of sodium thiosulfate. The mixture was extracted with ether. The solution was washed with water and brine, and then dried over sodium sulfate. The residue obtained by concentrating the solution under reduced pressure was dissolved in toluene and the resulting solution was concentrated again. The residue was dissolved in N,N-dimethylformamide (20 ml). Sodium acetate (4.59 g, 56 mmol) was added to the resulting solution and the mixture was stirred at 70° C. for 17 hours. After cooling, the reaction mixture was dissolved in ethyl acetate (100 ml), followed by washing with water and brine. The solution was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by silica gel chromatography (hexane:ethyl acetate=5:1) to yield the title compound (600 mg, 18%) as an oil.

reactant | N-bromosuccinimide | 33.6 mmol, 6.0 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2,2′-azobis(2-methylpropionitrile) | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | 2-[(2,5-difluorophenyl)-hydroxymethyl]-5-methylpyridine | 11.2 mmol, 2.64 g | FC1=C(C=C(C=C1)F)C(C1=NC=C(C=C1)C)O | C13H11F2NO
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | Sodium acetate | 56 mmol, 4.59 g | C(C)(=O)[O-].[Na+]
solvent | carbon tetrachloride | 60 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | [6-(2,5-Difluorophenylcarbonyl)pyridin-3-yl]methyl Acetate | 600 mg, 18% | C(C)(=O)OCC=1C=NC(=CC1)C(=O)C1=C(C=CC(=C1)F)F | C15H11F2NO3
